US08957074B2
To a 25 mL solution of THF, water and MeOH (2:2:1) containing 6-(7-cyclohexyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid methyl ester (860 mg, 2.04 mmol) was added solid LiOH (244 mg, 10.2 mmol). After stirring at 50° C. for 90 m, reaction was acidified to pH 6 with 1M HCl and then partitioned into two phases with a mixture of water, isopropyl alcohol and chloroform. The organic layer was removed and concentrated to yield 6-(7-cyclohexyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid (805 mg, 1.97 mmol) in 97% yield. MS m/z 409.6 (M÷H)+

reactant | THF | C1CCOC1 | C4H8O
reactant | 6-(7-cyclohexyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid methyl ester | 2.04 mmol, 860 mg | COC(C1=CN=C(C=C1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCCC2)=O | C22H26N6O3
reactant | LiOH | 10.2 mmol, 244 mg | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | 6-(7-cyclohexyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid | 1.97 mmol, 805 mg, 97% yield | C1(CCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C21H24N6O3
